US06617339B1
3-(4-(4-Acetoxyacetylpiperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one
3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (1.29 g, 3 mmol) was suspended in dichloromethane (25 ml) under nitrogen at ambient temperature. Triethylamine (1.06 g, 10.5 mmol) was added, to give a solution after 15 minutes. The mixture was cooled to 4°, and acetoxyacetyl chloride (410 mg, 3 mmol) was added dropwise. The mixture was stirred for 18 hours at ambient temperature, washed with water (2×20 ml), saturated brine (20 ml), and dried (magnesium sulfate). The residue was purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 5% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (1.16 g).

reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 3 mmol, 1.29 g | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | Triethylamine | 10.5 mmol, 1.06 g | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 3 mmol, 410 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-(4-(4-Acetoxyacetylpiperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one | 1.16 g | C(C)(=O)OCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C21H23FN4O7
